US07253165B2
Synthesis of (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 4-(4-fluoro-phenoxy)-piperidine (Table No.1, SM 5) in ethanol essentially as described above in Example 21. Purity by LC/MS=86%, [M+H]+=481 and 8%, [M+H]+=573.

reactant | (R)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@@H]2OC2)C=C1 | C16H12FNO3
reactant | 4-(4-fluoro-phenoxy)-piperidine | FC1=CC=C(OC2CCNCC2)C=C1 | C11H14FNO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-[4-(4-fluoro-phenoxy)-piperidin-1-yl]-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@@H](CN3CCC(CC3)OC3=CC=C(C=C3)F)O)C=C2)C=C1 | C27H26F2N2O4
